US07704668B1
Preparation of di-(4-tolyl)-4-octyloxyphenylsulfonium 10-camphorsulfonate
A 3-neck flask equipped with a thermometer, a nitrogen outlet and a mechanical stirrer, was charged with phosphorous pentoxide (8.64 g) followed by methanesulfonic acid (85.20 g). The resulting mixture was stirred at room temperature for 0.5 hour and then heated at 50° C. for 2-3 hours to obtain a homogeneous suspension. The mixture was cooled to below 10° C. in an ice-water bath and n-octylphenyl ether (21.66 g, 0.105 mol) was added. Next, p-tolylsulfoxide (20.03 g, 0.10 mol) was added with good stirring while maintaining the temperature of the reaction below 10° C. After stirring for 1 hour, the cooling bath was removed and the reaction was stirred at room temperature for 16 hours. Thereafter, the reaction mixture was added dropwise to a mixture of ice-water (500 mL) with vigorous stirring. The aqueous mixture was washed with toluene/hexane (3×100 mL, 1:1) and extracted with dichloromethane (3×200 mL). The combined organic layers were treated with an aqueous solution of ammonium 10-camphorsulfonate (prepared by neutralization of 10-camphorsulfonic acid (29.04 g, 0.125 mol) with ammonium hydroxide (14.53M, 8.6 mL, 0.125 mol)). The two phase solution was stirred at room temperature for 16 hours. The layers were separated and the aqueous phase extracted with dichloromethane (3×200 mL). The combined organic layers were washed with water (3×200 mL) and concentrated in vacuo to give a dark oil which solidified on standing to give a lightly colored solid @ 65 g. The solid was triturated in ether-ethylacetate for 18 hours, collected by suction filtration and dried in vacuo to provide the title compound, di-(4-tolyl)-4-octyloxyphenylsulfonium 10-camphorsulfonate, as a white solid.

reactant | phosphorous pentoxide | 8.64 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methanesulfonic acid | 85.20 g | CS(=O)(=O)O | CH4O3S
reactant | n-octylphenyl ether | 0.105 mol, 21.66 g | C(CCCCCCC)OC1=CC=CC=C1 | C14H22O
reactant | p-tolylsulfoxide | 0.10 mol, 20.03 g | C1(=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C)C | C14H14OS
reactant | ammonium 10-camphorsulfonate | 0.125 mol, 14.53M, 8.6 mL, 29.04 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-].[NH4+]
product | di-(4-tolyl)-4-octyloxyphenylsulfonium 10-camphorsulfonate | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-].C2(=CC=C(C=C2)[S+](C2=CC=C(C=C2)OCCCCCCCC)C2=CC=C(C=C2)C)C | InChI=1S/C28H35OS.C10H16O4S/c1-4-5-6-7-8-9-22-29-25-14-20-28(21-15-25)30(26-16-10-23(2)11-17-26)27-18-12-24(3)13-19-27;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h10-21H,4-9,22H2,1-3H3;7H,3-6H2,1-2H3,(H,12,13,14)/q+1;/p-1
